US07122558B2
Preparation of 2-Cyclohexyl-2-hydroxy-2-phenylacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester
Cyclohexylmagnesium cloride, 0.127 mol (63.6 ml of a solution 2M in ether), was added to a solution of 28.7 g (0.111 mol) of 2-oxo-2-phenylacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester dissolved in 350 ml of THF, at −70° C. under a N2 atmosphere. The mixture was stirred at this temperature for 10 minutes, and then warmed to room temperature. After 1 h, the reaction mixture was treated with a saturated solution of ammonium chloride and extracted twice with ethyl acetate. The organic phases were combined, washed with water, and dried over MgSO4. After removal of the solvent, the oil obtained (27.0 g) was purified by chromatography on silica gel eluting with chloroform/methanol 10:1. The yield was 18.7 g (49.2%) of a pure product, mixture of diastereomers: I-16a and I-16b.

reactant | Cyclohexylmagnesium cloride | C1(CCCCC1)[Mg]Cl
reactant | 2-oxo-2-phenylacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | 0.111 mol, 28.7 g | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)=O)=O | C15H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | 2-Cyclohexyl-2-hydroxy-2-phenylacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(O)C2CCCCC2)=O | C21H29NO3
